US07179819B2
A mixture of pentafluorophenyl 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetate (324.5 mg, 0.676 mmol), methyl 3-fluoro4-(2-pyrrolidinyl)methoxybenzoate (171.1 mg, 0.676 mmol), Et3 N (113 ul, 0.811 mmol) in DMF (5 mL) was stirred for 2 hr at room temp. The mixture was diluted with EtOAc, washed with brine, and dried over Na2SO4. The solvent was removed under a reduced pressure and the residue was chromatographed on silica-gel with n-hexane:EtOAc (1:2, v/v) as eluent to afford methyl 3-fluoro-4-[[1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinyl]methoxy]benzoate (365.1 mg, 0.664 mmol) as an oil. To a stirred solution of this compound in THF (4.4 mL) and H2O (1.1 mL) was added LiOH (46.3 mg, 1.932 mmol), and the reaction mixture was stirred at room temp overnight. The mixture was diluted with CHCl3 and acidified by the addition of 1 N HCl. The separated organic layer was washed with brine and dried over Na2SO4. The solvent was removed under a reduced pressure, and the obtained crude solid was recrystallized from n-hexane-EtOAc—CHCl3 to afford 102 mg (30%) 38 as a white crystalline powder. mp 123–126; IR (KBr) 1616, 1537, 1282, 756 cm−1; 1H-NMR (400 MHz, DMSO-d6) δ 1.87–2.09 (m, 4H), 2.25 (s, 3H), 3.48–3.57 (m, 2H), 3.60 (s, 2H), 3.83 (s, 3H), 4.11–4.16 (m, 1H), 4.24 (dd, J=2.9, 9.8 Hz, 1H), 4.28–4.34 (br s, 1H), 6.74 (dd, J=1.5, 8.3 Hz, 1H), 6.87 (s, 1H), 6.94 (t, J=7.3 Hz, l), 7.12 (d, J=7.8 Hz, 1H), 7.15 (t, J=8.3 Hz, 1H), 7.34 (t, J=8.8 Hz, 1H), 7.66 (dd, J=2.0, 12.2 Hz, 1H), 7.73 (d, J=9.3 Hz, 1H), 7.79 (d, J=8.3 Hz, 1H), 7.99 (d, J=7.8 Hz, 1H), 8.46 (s, 1H), 8.55 (s, 1H); MS (FAB) m/z 536 (M++1); Anal. Calcd for C29H30N3O6.0.5H2O: C, 63.96; H. 5.74; N, 7.72; F; 3.49. Found: C, 64.11; H, 5.80; N, 7.39; F, 3.54.

reactant | pentafluorophenyl 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetate | 0.676 mmol, 324.5 mg | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)OC1=C(C(=C(C(=C1F)F)F)F)F | C23H17F5N2O4
reactant | methyl 3-fluoro4-(2-pyrrolidinyl)methoxybenzoate | 0.676 mmol, 171.1 mg | FC=1C=C(C(=O)OC)C=CC1OCC1NCCC1 | C13H16FNO3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 3-fluoro-4-[[1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinyl]methoxy]benzoate | 0.664 mmol, 365.1 mg | FC=1C=C(C(=O)OC)C=CC1OCC1N(CCC1)C(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)OC)=O | C30H32FN3O6
